US06531477B1
To a stirred solution of 60 mg (0.12 mmol) of 1-(2,4,6-trichlorophenyl)-3-trifluoromethyl-6-(3-methoxy-4-methoxybenzyl)pyrazolo[3,4-d]pyrimidin-4-one in 2 mL of CH2Cl2 was added 2 mL of a 1M solution of BBr3 in CH2Cl2. The solution was stirred 2.5 h at RT and quenched with 1 N aq. HCl. The mixture was diluted with water and extracted with EtOAc. The organic extract was washed with brine, dried (MgSO4), and concentrated under reduced pressure. The crude product was chromatographed on silica gel (elution with 1:1 hexanes-THF, then THF) to afford 1-(2,4,6-trichlorophenyl)-3-trifluoromethyl-6-(3-hydroxybenzyl)pyrazolo[3,4-d]pyrimidin-4-one, as an off-white solid. Mass spec.: 487 (M−H)−.

reactant | 1-(2,4,6-trichlorophenyl)-3-trifluoromethyl-6-(3-methoxy-4-methoxybenzyl)pyrazolo[3,4-d]pyrimidin-4-one | 0.12 mmol, 60 mg | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC(=C(C=C2)OC)OC)C(F)(F)F | C21H14Cl3F3N4O3
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(2,4,6-trichlorophenyl)-3-trifluoromethyl-6-(3-hydroxybenzyl)pyrazolo[3,4-d]pyrimidin-4-one | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC(=CC=C2)O)C(F)(F)F | C19H10Cl3F3N4O2
